data/oMe_Silver.jsonl
{"reaction_id": "NR-208_1-C(=O)OC_2-Cl_3-CC#N_4-c1cnccn1","level": "easy","name": "Overman Rearrangement","reactants_smiles": ["C(C(=O)OC)=C(Cl)C(CC#N)(c1cnccn1)OC=N"],"products_smiles": ["C(=O)NC(C(=O)OC)C(Cl)=C(CC#N)(c1cnccn1)"],"conditions": "None","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=O)NC(C(=O)OC)C(Cl)=C(CC#N)(c1cnccn1)","step_weight": 0,"rationale": "Thermal activation enables a [3,3]-sigmatropic shift via a six-membered cyclic transition state, with allylic π-orbitals and imidate lone pairs overlapping to form a more stable amide through resonance stabilization."}],"description": "The allylic imidate undergoes a concerted [3,3]-sigmatropic rearrangement under thermal conditions, shifting the connectivity to form an allylic amide. This pericyclic process is driven by favorable orbital overlap and the thermodynamic stability of the amide product."}
{"reaction_id": "NR-112_1-Br_2-c2ccccc2_3-OC_4-C(F)(F)F_5-C(C)C","name": "Houben-Hoesch Reaction","level": "medium","reactants_smiles": ["c1c(O)c(Br)c(c2ccccc2)c(OC)c1C(F)(F)F","C(C(C)C)#N"],"products_smiles": ["c1(C(=O)C(C)C)c(O)c(Br)c(c2ccccc2)c(OC)c1C(F)(F)F"],"conditions": "i. ZnCl2, HCl ii. H2O","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(=N[Zn])C(C)C)C(=[OH+])c(Br)c(c2ccccc2)c(OC)c1C(F)(F)F","rationale": "ZnCl2 coordinates to the nitrile nitrogen, increasing the electrophilicity of the carbon and enabling nucleophilic attack by the activated aromatic ring via resonance donation from the phenolic OH."},{"step": 2,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "c1(C(=[NH])C(C)C)c(O)c(Br)c(c2ccccc2)c(OC)c1C(F)(F)F","rationale": "Proton elimination restores aromaticity, a thermodynamically favored process, stabilizing the intermediate through delocalization over the aromatic ring."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(C(=[NH2+])C(C)C)c(O)c(Br)c(c2ccccc2)c(OC)c1C(F)(F)F","rationale": "Acidic conditions protonate the imine nitrogen, making it more susceptible to nucleophilic attack by water in the subsequent hydrolysis step."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1(C(=O)C(C)C)c(O)c(Br)c(c2ccccc2)c(OC)c1C(F)(F)F","rationale": "Water attacks the protonated imine carbon, and subsequent rearrangement leads to C=O formation, driven by the stability of the aryl ketone product under acidic hydrolysis conditions."}],"description": "Under acidic ZnCl2 catalysis, the phenol activates towards electrophilic attack by a nitrilium ion derived from the nitrile. Subsequent proton transfers and hydrolysis yield the aryl ketone. ZnCl2 coordinates to oxygen/nitrogen, enhancing electrophilicity and stabilizing intermediates."}
